US05854262
H. (2S,3S)-(6-Methoxy-2-phenyl-benzothiazol-5-ylmethyl)-(2-phenyl-piperidin-3-yl)-amine
A round bottom flask equipped with a Dean Stark water separator and condenser was charged with 0.96 grams (3.6 mmol) 6-methoxy-2-phenyl-benzothiazol-5-aldehyde and 0.57 grams (3.2 mmol) of (2S, 3S)-2-phenyl-3-amino-piperidine in 90 mL of hours. The reaction mixture was evaporated in vacuo and the residue was redissolved in 90 mL of 1,2-dichlorethane. The solution was treated with 0.89 grams (4.2 mmol) of sodium triacetoxyborohydride and was stirred for 16 hours at room temperature. The reaction mixture was diluted with methylene chloride (600 mL) and washed with 150 mL of bicarbonate solution, 150 mL of water and finally with 150 mL of saturated brine solution. The organic phase was dried over sodium sulfate, filtered and evaporated. The residue was chromatographed on silica gel eluting with 97/2/1 methylene chloride, methanol, conc. aqueous ammonium hydroxide solution. Product containing fractions were combined, evaporated and crystallized from hot ether--MeOH to afford 1.1 grams (80%) of the desired product.

reactant | water | O | H2O
reactant | 6-methoxy-2-phenyl-benzothiazol-5-aldehyde | 3.6 mmol, 0.96 grams | COC1=CC2=C(N=C(S2)C2=CC=CC=C2)C=C1C=O | C15H11NO2S
reactant | (2S, 3S)-2-phenyl-3-amino-piperidine | 3.2 mmol, 0.57 grams | C1(=CC=CC=C1)[C@@H]1NCCC[C@@H]1N | C11H16N2
reactant | sodium triacetoxyborohydride | 4.2 mmol, 0.89 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
product | (2S,3S)-(6-Methoxy-2-phenyl-benzothiazol-5-ylmethyl)-(2-phenyl-piperidin-3-yl)-amine | 1.1 grams, 80% | COC1=CC2=C(N=C(S2)C2=CC=CC=C2)C=C1CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1 | C26H27N3OS
